Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ F PMHx vertigo c/b syncope, HTN, HLD, hypothyroidism who 
presented to ___ s/p fall c/b headstrike found to have 
elevated troponins and ST-depressions c/w NSTEMI transferred for 
ongoing management.

Per patient, she was going to the bathroom when she felt "sick" 
described as feeling nauseous and then fell. She remembers 
hitting her head; she denies LOC, vomiting. She notes this 
episode of syncope was different from her previous episodes of 
vertigo. She denies medication changes, recent illness. She 
denies CP/palp, SOB, f/c, weight changes, ___ edema. 

At ___ patient had NCHCT, CT cervical spine, CT 
maxillofacial which were negative. Troponin-T was elevated to 
0.2. ECG c/f ST-depressions in precordial leads/II, prompting 
transfer to ___ for further management. In ___ ED troponin T 
was uptrending to 0.4, urinalysis was c/f WBCs. She was 
evaluated by Ophtho ___ eye strike found to have a vitreous 
hemorrhage who felt she was stable. Due to fall she was 
evaluated by ACS who recommended CT Torso. She received full 
dose aspirin, 1gm CTX, and was started on heparin gtt.

This morning patient reports feeling "slightly better." She 
feels her pain is well controlled. She denies CP/palp, SOB, 
lightheadedness/dizziness. She denies recent medication changes. 
She notes she is independent in her ADLs and walks x2 miles per 
day.

 
Past Medical History:
-HTN
-Lyme disease
-DVT/PE ___ year ago, unprovoked, tx with rivaroxaban)
-Anxiety
-Hypothyroidism
-Vertigo

 
Social History:
___
Family History:
Mother lived to ___ years old. Father had brain tumor. No HTN Or 
MI in the family to her knowledge. No siblings. 
 
Physical Exam:
ADMISSION:
VS: 97.9 130/83 67 18 98%RA
-Weight 47.2kg
GEN: NAD, resting in bed
HEENT: (+) ecchymoses over L forehead. (+) erythema of R eye, 
PERRL, EOMI. OP clear
NECK: Supple, full ROM, no LAD
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No m/r/g. No thrills, lifts. 
LUNGS: No chest wall deformities, scoliosis or kyphosis. CTAB, 
no crackles, wheezes or rhonchi.
ABDOMEN: Soft, NTND, (+)BS. No organomegaly
EXTREMITIES: WWP, no edema/cyanosis/clubbing. Distal pulses 
intact
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.

DISCHARGE:
VS: 98.8 112/60 71 16 93%RA 
-Orthostatics: 105/53 / 57 (lying) -> 117/72 / 68 (sitting) -> 
103/64 / 76 (standing)
-Weight 47.1kg (<-47.2kg)
GEN: NAD, resting in bed
HEENT: (+) ecchymoses over L forehead. (+) erythema of R eye, 
PERRL, EOMI. OP clear
NECK: Supple, full ROM, no LAD
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No m/r/g. No thrills, lifts. 
LUNGS: No chest wall deformities, scoliosis or kyphosis. CTAB, 
no crackles, wheezes or rhonchi.
ABDOMEN: Soft, NTND, (+)BS. No organomegaly
EXTREMITIES: WWP, no edema/cyanosis/clubbing. Distal pulses 
intact
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
 
Pertinent Results:
ADMISSION:
___ 09:30PM   WBC-11.4* RBC-3.78* HGB-12.5 HCT-37.7 
MCV-100* MCH-33.1* MCHC-33.2 RDW-12.6 RDWSD-46.0
___ 09:30PM   ___ PTT-25.3 ___
___ 09:30PM   GLUCOSE-127* UREA N-17 CREAT-1.0 SODIUM-138 
POTASSIUM-3.6 CHLORIDE-104 TOTAL CO2-20* ANION GAP-18

PERTINENT:
___ 09:30PM   CK-MB-3
___ 09:30PM   cTropnT-0.40*
___ 06:21AM   CK-MB-4 cTropnT-0.23*

DISCHARGE:
___ 05:55AM BLOOD WBC-3.5*# RBC-4.09 Hgb-13.4 Hct-41.2 
MCV-101* MCH-32.8* MCHC-32.5 RDW-12.7 RDWSD-47.3* Plt ___
___ 05:55AM BLOOD Glucose-94 UreaN-13 Creat-0.8 Na-136 
K-4.5 Cl-104 HCO3-24 AnGap-13

IMAGING:
-CXR (___): IMPRESSION: 
1. Multiple vertebral body compression fractures are of 
indeterminate age. 
2. No rib fractures identified.  If there are focal areas of 
pain, dedicated views of those areas are recommended 

 
Brief Hospital Course:
___ PMHx HTN, HLD, vertigo, prior episode of DVT/PE one year 
ago presenting with syncope c/f vasovagal etiology.  

# Syncope: patient presented to OSH after syncope described as 
getting up to go to bathroom, feeling nauseous followed by 
blacking out c/b headstrike. Given patient's description of 
symptoms and prodrome of nausea, likely ___ vasovagal event. 
Could also be ___ hypovolemia given urinalysis with (+) ketones. 
Additional concern for cardiac etiology given (+) troponin 
elevation at OSH; however no >sub-mm ECG changes and no 
description of CP. CXR negative for acute process. Orthostatics 
(+). She was monitored on tele; negative for arrhythmias. PO 
intake was encouraged. She had no further events in hospital.

# Elevated troponins: patient noted to have troponin elevation 
to 0.2 at OSH; ECG without evidence of ST changes. Unlikely 
ischemic given patient denied symptoms of chest pain, pressure, 
dyspnea, or other symptoms concerning for cardiac etiology of 
symptoms. She received presumptive NSTEMI treatment overnight 
including high dose asa, heparin gtt, and bblocker. Repeat ECG 
shows sinus rhythm, no ST changes. She was continued on home 
statin, started on asa 81mg for primary prevention.

# Right eye vitreous hemorrhage: in setting of fall, patient 
struck R eye c/b blurry vision. She was evaluated by Ophtho in 
ED; no current intervention needed. She will follow up with 
Retina clinic at ___ on ___.   

# Prolonged QT: noted on ECGs in 470-500ms range. Citalopram was 
stopped. Please consider addition of additional antidepressant  

# HTN: continue losartan.  

# HLD: restart atorvastatin 10mg PO QHS.  

# Hypothyroidism: continue levothyroxine 100mcg qd

TRANSITIONAL ISSUES:
[] Pt w/right eye vitreous hemorrhage; per Ophtho will need 
close follow-up and repeat B-scans till vitreous hemorrhage 
resolves. Ophtho will call patient on ___ re: appointment 
time. Provided pt w/clinic number above to f/u appointment time
[] Pt noted to have QTc to 523ms on admission QTc; please 
continue to monitor med list and avoid QTc prolonging meds in 
future
[] Citalopram stopped ___ QTc prolongation
[] Started on asa 81mg for primary prevention 
[] Pt reported increased urinary frequency prior to discharge; 
urinalysis without bacteria/WBCs/leuks/nitrites. Please follow 
up urine culture
# CODE: Full, confirmed 
# CONTACT: ___ (daughter) ___ 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 25 mg PO DAILY 
2. Citalopram 20 mg PO DAILY 
3. Atorvastatin 10 mg PO QPM 
4. Nortriptyline 10 mg PO QHS 
5. Levothyroxine Sodium 100 mcg PO DAILY 

 
Discharge Medications:
1. Atorvastatin 10 mg PO QPM 
2. Levothyroxine Sodium 100 mcg PO DAILY 
3. Losartan Potassium 25 mg PO DAILY 
4. Nortriptyline 10 mg PO QHS 
5. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*6

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
-Syncope - vasovagal
-Right eye vitreous hemorrhage
-Prolonged QTc
-Elevated troponins

SECONDARY DIAGNOSEs:
-Hypertension
-Hyperlipidemia
-Hypothyroidism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ after a fall. Imaging of your head 
and back were negative for acute processes. You did sustain an 
injury to your eye called a vitreous hemorrhage, meaning blood 
in a portion of your eye. You were evaluated by the 
Ophthalmology team who felt that your eye was stable; you will 
follow up with an eye doctor early next week for continued 
monitoring. If you experience any change in your vision, please 
present to your nearest ED for evaluation.  

In addition, there was concern for stress to your heart 
following your fall. We monitored your heart very closely and it 
was determined that there was no injury or abnormality in your 
heart. You should start taking aspirin 81mg daily. Please STOP 
taking your Celexa since it might cause some abnormalities. 

Thank you for letting us be a part of your care!
Your ___ Team
 
Followup Instructions:
___